US06048864
(a) 4-Cyano-3-fluoro-5-cyclobutyloxyanisole
The subtitle compound was prepared from 4-cyano-3,5-difluoroanisole and cyclobutanol following the procedure described in Example 14(a). The crude product was purified on silica gel eluting with dichloromethane:hexane (60:40 v/v) to give the subtitle compound as a white solid (92%). Rf 0.26 (dichloromethane:hexane 1:2, v/v). MS m/z 239 (MNH4)+.

reactant | 4-cyano-3,5-difluoroanisole | C(#N)C1=C(C=C(C=C1F)OC)F | C8H5F2NO
reactant | cyclobutanol | C1(CCC1)O | C4H8O
product | 4-Cyano-3-fluoro-5-cyclobutyloxyanisole | 92% | C(#N)C1=C(C=C(C=C1OC1CCC1)OC)F | C12H12FNO2
